US05234918
1-[[3-[[3-(Hexadecyloxy)-2-methoxypropoxy]methyl]phenyl]methyl]-1H-imidazol
A mixture of 2.4 g of 1-(bromomethyl)-3-[[3-(hexadecyloxy)-2-methoxypropoxy]methyl]benzene, 2.54 g of imidazole and 30 ml of toluene was heated at 80° C. under argon in a pressure bottle for 4 hours and then evaporated. The residue was purified by chromatography, giving 2.02 g of the desired product as a colorless oil.

reactant | 1-(bromomethyl)-3-[[3-(hexadecyloxy)-2-methoxypropoxy]methyl]benzene | 2.4 g | BrCC1=CC(=CC=C1)COCC(COCCCCCCCCCCCCCCCC)OC | C28H49BrO3
reactant | imidazole | 2.54 g | N1C=NC=C1 | C3H4N2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[[3-[[3-(Hexadecyloxy)-2-methoxypropoxy]methyl]phenyl]methyl]-1H-imidazol | 2.02 g | C(CCCCCCCCCCCCCCC)OCC(COCC=1C=C(C=CC1)CN1C=NC=C1)OC | C31H52N2O3
